US07087605B2
2-(4-Bromophenyl)-7-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 2.34 g (5.77 mmol) N-{1-[3-(4-bromophenyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide, 4.43 g (28.9 mmol) phosphoric trichloride are stirred at reflux for 3 hours, proportionate amounts of the solvents are used.

reactant | N-{1-[3-(4-bromophenyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide | 5.77 mmol, 2.34 g | BrC1=CC=C(C=C1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCCC1 | C18H21BrN4O2
reactant | phosphoric trichloride | 28.9 mmol, 4.43 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(4-Bromophenyl)-7-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | BrC1=CC=C(C=C1)C1=NN2C(C(N1)=O)=C(N=C2C2CCCC2)CC | C18H19BrN4O
